US08048909B2
1-{1-[(4-Fluorophenyl)sulfonyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
Using 1-[(4-fluorophenyl)sulfonyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde (0.55 g), methylammonium chloride (1.17 g) and sodium cyanoborohydride (0.27 g), a procedure as in Example 4 was performed to give the title compound as a colorless crystal (yield 0.33 g, 53%).

reactant | 1-[(4-fluorophenyl)sulfonyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde | 0.55 g | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=C(C=CC=C1)C(F)(F)F)C=O | C18H11F4NO3S
reactant | methylammonium chloride | 1.17 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 0.27 g | C(#N)[BH3-].[Na+]
product | 1-{1-[(4-Fluorophenyl)sulfonyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 0.33 g, 53% | Cl.FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=C(C=CC=C1)C(F)(F)F)CNC | InChI=1S/C19H16F4N2O2S.ClH/c1-24-11-13-10-18(16-4-2-3-5-17(16)19(21,22)23)25(12-13)28(26,27)15-8-6-14(20)7-9-15;/h2-10,12,24H,11H2,1H3;1H
